US05025025
To a solution of 0.815 g of methyl 8-(p-chlorophenylsulfonamido)-4-[2-(3-pyridyloxy)ethyl]octanoate in 13 mL dioxane is added 3.5 mL of 1N sodium hydroxide. The solution is stirred at room temperature for 60 hours and then the solvent is evaporated. The residue is dissolved in water, the solution is adjusted to pH=6.5 and extracted with methylene chloride (3×20 mL). The combined organic extracts are dried, filtered and evaporated to yield an oil which is crystallized from ether to obtain 8-(p-chlorophenylsulfonamido)-4-[2-(3-pyridyloxy)ethyl]octanoic acid, m.p. 77-79°.

reactant | methyl 8-(p-chlorophenylsulfonamido)-4-[2-(3-pyridyloxy)ethyl]octanoate | 0.815 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(CCC(=O)OC)CCOC=1C=NC=CC1 | C22H29ClN2O5S
reactant | sodium hydroxide | 1N, 3.5 mL | [OH-].[Na+]
solvent | dioxane | 13 mL | O1CCOCC1 | C4H8O2
product | 8-(p-chlorophenylsulfonamido)-4-[2-(3-pyridyloxy)ethyl]octanoic acid | ClC1=CC=C(C=C1)S(=O)(=O)NCCCCC(CCC(=O)O)CCOC=1C=NC=CC1 | C21H27ClN2O5S
